US05532240
A mixture of 5.0 g of 6-acetyl-2-(2-chloroethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine, 4.9 g of 4-(5-methylbenzo(b)furan-3-yl) piperidine hydrochloride, 2.5 g of potassium carbonate, 3.0 g of potassium iodide, 30 ml of dimethylformamide and 30 ml of toluene was stirred at 70° C. for 7 hours and then poured into water. The toluene layer was washed with water, dried over anhydrous magnesium sulfate and concentrated. The residue was purified by column chromatography on a silica gel and then dissolved into ethanol to make a hydrochloride. The resulting crystals were recrystallized from isopropyl alcohol to give 6-acetyl-3-ethyl-2-(2-(4-(5-methylbenzo(b)-furan-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride, m.p. 222°-225° C.

reactant | 6-acetyl-2-(2-chloroethyl)-3-ethyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridine | 5.0 g | C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCCl)CC | C13H18ClNOS
reactant | 4-(5-methylbenzo(b)furan-3-yl) piperidine hydrochloride | 4.9 g | Cl.CC1=CC2=C(OC=C2C2CCNCC2)C=C1
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 3.0 g | [I-].[K+]
solvent | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 6-acetyl-3-ethyl-2-(2-(4-(5-methylbenzo(b)-furan-3-yl)piperidin-1-yl)ethyl)-4,5,6,7-tetrahydrothieno[2,3-c]pyridine hydrochloride | Cl.C(C)(=O)N1CC2=C(CC1)C(=C(S2)CCN2CCC(CC2)C=2C1=C(OC2)C=CC(=C1)C)CC | InChI=1S/C27H34N2O2S.ClH/c1-4-21-22-9-14-29(19(3)30)16-27(22)32-26(21)10-13-28-11-7-20(8-12-28)24-17-31-25-6-5-18(2)15-23(24)25;/h5-6,15,17,20H,4,7-14,16H2,1-3H3;1H
